US09340547B2
a) (S)-tert-Butyl 1-(3-bromo-2-(phenylcarbamoyl)-1H-pyrrol-1-ylamino)-1-oxopropan-2-ylcarbamate
The title compound was prepared following the experimental procedure described in preparation 20a from 810 mg (2.89 mmol) of 1-amino-3-bromo-N-phenyl-1H-pyrrole-2-carboxamide and 656 mg (3.47 mmol) of (S)-2-(tert-butoxycarbonylamino)propanoic acid (purchased from Aldrich). The crude product was purified by flash chromatography in hexane/ethyl acetate to afford 670 mg (49% yield) of the title compound.

reactant | 1-amino-3-bromo-N-phenyl-1H-pyrrole-2-carboxamide | 2.89 mmol, 810 mg | NN1C(=C(C=C1)Br)C(=O)NC1=CC=CC=C1 | C11H10BrN3O
reactant | (S)-2-(tert-butoxycarbonylamino)propanoic acid | 3.47 mmol, 656 mg | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)C | C8H15NO4
product | (S)-tert-Butyl 1-(3-bromo-2-(phenylcarbamoyl)-1H-pyrrol-1-ylamino)-1-oxopropan-2-ylcarbamate | 670 mg, 49% yield | BrC1=C(N(C=C1)NC([C@H](C)NC(OC(C)(C)C)=O)=O)C(NC1=CC=CC=C1)=O | C19H23BrN4O4
